US07626030B2
Methyl 6-methoxybenzofuran-3-carboxylate (498 mg, 2.42 mmol) was dissolved in dichloromethane (100 mL) then cooled to −10 C. A solution of 1M boron tribromide in dichloromethane (9.67 mL, 9.67 mmol) was added slowly via syringe. The dark purple reaction mixture was warmed to RT over 3 h then continued stirring at RT for an additional 4 h. The mixture was slowly quenched with aqueous 1N hydrochloric acid until it became colorless. The mixture was diluted with dichloromethane and washed with water (2×) and brine. The organic layer was dried over sodium sulfate and concentrated in vacuo. The remaining orange-brown solid was purified by silica gel chromatography (1:4 EtOAc/hexane) to afford methyl 6-hydroxybenzofuran-3-carboxylate as an off-white solid. MS (ESI, neg. ion) m/z: 191.1 (M−1).

reactant | Methyl 6-methoxybenzofuran-3-carboxylate | 2.42 mmol, 498 mg | COC1=CC2=C(C(=CO2)C(=O)OC)C=C1 | C11H10O4
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 9.67 mmol, 9.67 mL | ClCCl | CH2Cl2
product | methyl 6-hydroxybenzofuran-3-carboxylate | OC1=CC2=C(C(=CO2)C(=O)OC)C=C1 | C10H8O4
